US06441004B1
Isopropyl 3-methylindole-2-carboxylate
Sodium borohydride (0.23 g) was added to a stirred solution of ethyl 3-formylindole-2-carboxylate (0.2 g) and 10% palladium on carbon (0.11 g) in isopropanol (45 ml). The solution was heated at reflux for 4 hours, cooled and filtered through Celite. The solution was partitioned between ethyl acetate and water. Combined organic extracts were dried (MgSO4) and concentrated in vacuo and the residue purified by column chromatography using isohexane-10% ethyl acetate as eluent to give the desired end product as a white solid (0.05 g, 25%); NMR δ(CD3SOCD3) 1.3 (d, 6H), 2.5 (s, 3H), 5.2 (m, 1H), 7.0 (m, 1H), 7.2 (m, 1H), 7.4 (m, 1H), 7.6 (d, 1H), 11.3 (bs, 1H).

reactant | Sodium borohydride | 0.23 g | [BH4-].[Na+]
reactant | ethyl 3-formylindole-2-carboxylate | 0.2 g | C(=O)C1=C(NC2=CC=CC=C12)C(=O)OCC | C12H11NO3
reactant | isopropanol | 45 ml | C(C)(C)O | C3H8O
catalyst | palladium on carbon | 0.11 g | [Pd] | Pd
product | Isopropyl 3-methylindole-2-carboxylate | 0.05 g, 25% | CC1=C(NC2=CC=CC=C12)C(=O)OC(C)C | C13H15NO2
